US04483799
3-Hydroxy propane sulfonic acid-(3-sulfopropyl)-ester ("ester 1")
1 mol of 3-hydroxy propane sulfonic acid is heated to 137° C. with 3 mol of water for 2 hours. Further treatment as described under (a) results in a crystallizing oil which has a water content of 8% and is also free from 1,3-propane sultone.

reactant | 3-hydroxy propane sulfonic acid | 1 mol | OCCCS(=O)(=O)O | C3H8O4S
reactant | 1,3-propane sultone | C1COS(=O)(=O)C1 | C3H6O3S
solvent | water | O | H2O
solvent | water | 3 mol | O | H2O
product | 3-Hydroxy propane sulfonic acid-(3-sulfopropyl)-ester | S(=O)(=O)(O)CCCOS(=O)(=O)CCCO | C6H14O7S2
